*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7T(-55to125[deg])/1.00e+01[uF]/4[V]
* Murata P/N :GRT155D70G106ME13
* Property : C = 1.00e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155D70G106ME13 Port1 Port2
C01 Port1 N01 7.88e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.39e-10
R03 N02 N03 4.44e-03
C04 N03 N04 5.50e-04
R04 N03 N04 9.64e+00
C05 N04 N05 6.71e-04
R05 N04 N05 1.16e+00
C06 N05 N06 6.23e-04
R06 N05 N06 1.91e-01
C07 N06 N07 7.00e-04
R07 N06 N07 2.69e-02
C08 N07 N08 6.85e-04
R08 N07 N08 4.84e-03
C09 N08 N09 7.25e-04
R09 N08 N09 1.03e-03
L10 N09 N10 2.48e-11
R10 N09 N10 1.06e-01
L11 N10 N11 6.08e-11
R11 N10 N11 3.38e-02
L12 N11 N12 2.37e-10
R12 N11 N12 1.26e-02
C13 N12 N13 3.34e-05
L13 N12 N13 4.21e-11
R13 N12 N13 2.04e-03
C14 N13 N14 2.03e-05
L14 N13 N14 3.34e-11
R14 N13 N14 2.18e-03
C15 N14 Port2 1.68e-11
L15 N14 Port2 1.88e-11
R15 N14 Port2 2.63e+00
.ENDS GRT155D70G106ME13
